US07427683B2
A solution of 1-(5-fluoro-2-nitro-phenyl)-piperidine (200 mg, 0.89 mmol) in 4 mL of 2M methylamine in MeOH was heated in a sealed tube for 12 h at 80° C. Removal of the solvent under vacuum afforded methyl-(4-nitro-3-piperidin-1-yl-phenyl)-amine (209 mg, 100%). Mass spectrum (ESI, m/z): Calcd. for C12H17N3O2, 236.1 (M+H), found 236.1.

reactant | 1-(5-fluoro-2-nitro-phenyl)-piperidine | 0.89 mmol, 200 mg | FC=1C=CC(=C(C1)N1CCCCC1)[N+](=O)[O-] | C11H13FN2O2
reactant | methylamine | 2M, 4 mL | CN | CH5N
solvent | MeOH | CO | CH4O
product | methyl-(4-nitro-3-piperidin-1-yl-phenyl)-amine | 209 mg, 100% | CNC1=CC(=C(C=C1)[N+](=O)[O-])N1CCCCC1 | C12H17N3O2
